US05801170
4-(1,2,4-Triazol-1-yl)nitrobenzene
4Fluoronitrobenzene (2 g, 0.014 mol), 1,2,4-triazole (1 g, 0.014 mol), potassium carbonate (1.96 g, 0.014 mol) were dissolved in DMSO (50 ml) and stirred at 90° C. for 24 h under dry conditions. The yellow suspension was poured into water (150 ml), extracted (EtOAc), dried (Na2SO4) and evaporated under reduced pressure to afford an orange solid which was purified by flash column chromatography on silica eluting with n-pentane/ethyl acetate (50-100%) to afford a white solid (2.57 g 97%).

reactant | 4Fluoronitrobenzene | 0.014 mol, 2 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1,2,4-triazole | 0.014 mol, 1 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.014 mol, 1.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 4-(1,2,4-Triazol-1-yl)nitrobenzene | N1(N=CN=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6N4O2
